US05885967
A) Preparation of N(Et)Gly-O-t-Bu
To a stirring solution of ethylamine (24 mL, 300 mmol) and triethylamine (14 mL, 100 mmol) in ethanol (200 mL) at 0° C., was added via addition funnel a solution of t-butyl bromoacetate (19.5 mL, 100 mmol) in ethanol (50 mL). The cold bath was left unattended and the mixture was allowed to slowly warm to room temperature. After 24 hours, the solvents were removed in vacuo. The residue was dissolved in ethyl acetate, and extracted twice with 1N citric acid. The combined aqueous layers were basified to pH 10 with solid Na2CO3, and then extracted twice with ethyl acetate. The combined ethyl acetate extracts were dried (MgSO4), filtered, and concentrated in vacuo to give 9.8 g (62%) of a yellow oil.

reactant | ethylamine | 300 mmol, 24 mL | C(C)N | C2H7N
reactant | triethylamine | 100 mmol, 14 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyl bromoacetate | 100 mmol, 19.5 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N(Et)Gly-O-t-Bu | 9.8 g, 62% | N(CC(=O)OC(C)(C)C)CC | C8H17NO2
